US09388173B2
Step 1: Bromo-2-phenoxybenzene
To a solution of 2-bromophenol (1 g, 5.84 mmol), phenylboronic acid (1.42 g, 11.69 mmol) and TEA (2.95 g, 29.2 mmol) in DCM (30 mL) was added Cu(OAc)2 (1.05 g, 5.84 mmol) and 4 Å molecular sieves (500 mg). The reaction mixture was stirred at room temperature over air with a dry tube attached for 16 h. The mixture was filtered and the filtrate was washed by water (50 mL) and brine (30 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated with the residue purified by column chromatography to give 612 mg of the desired product.

reactant | 2-bromophenol | 5.84 mmol, 1 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | phenylboronic acid | 11.69 mmol, 1.42 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 5.84 mmol, 1.05 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | Bromo-2-phenoxybenzene | 612 mg | BrC1=C(C=CC=C1)OC1=CC=CC=C1 | C12H9BrO
